US09428513B2
4-N-(2-methoxyethyl)-6-(morpholin-4-yl)pyridine-3,4-diamine M-1
2,4-Dichloro-5-nitro-pyridine (500 mg; 2.46 mmol), 2-methoxyethylamine (225 n1; 2.46 mmol) and triethylamine (400 μl; 2.82 mmol) are suspended in 2.5 ml NMP and stirred for 1 h at 25° C. To this suspension morpholine (500 μl; 5.71 mmol) is added and the resulting mixture is stirred for 16 h at 50° C. The crude intermediate is purified using reversed phase chromatography (prep. HPLC1). This intermediate is dissolved in 30 ml THF and palladium on carbon is added. The reaction mixture is stirred for 3 h at 25° C. and 4 bar hydrogen pressure. The solid material is filtered off and the solvent is evaporated.

reactant | 2,4-Dichloro-5-nitro-pyridine | 2.46 mmol, 500 mg | ClC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | 2-methoxyethylamine | 2.46 mmol | COCCN | C3H9NO
reactant | triethylamine | 2.82 mmol, 400 μl | C(C)N(CC)CC | C6H15N
reactant | morpholine | 5.71 mmol, 500 μl | N1CCOCC1 | C4H9NO
solvent | NMP | 2.5 ml | CN1CCCC1=O | C5H9NO
product | 4-N-(2-methoxyethyl)-6-(morpholin-4-yl)pyridine-3,4-diamine | COCCNC1=C(C=NC(=C1)N1CCOCC1)N | C12H20N4O2
